US07250410B2
5-chloro-7,8-dimethoxy-1-n-propyl-1,3-dihydro-1,4-benzodiazepin-2-one, XVIIIad.
Heat at 115° C. for 12 hours under an inert atmosphere a mixture of 200 mg (0.74 mmol) of 5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one XVIIIaa, 109 mg (0.89 mmol) of benzene boronic acid, 182 mg (0.86 mmol) of K3PO4, 23 mg (0.020 mmol) of tetrakis(triphenylphosphine)Pd(0) in 5 ml of DMF. Allow to cool to room temperature. Add 80 ml of H2O and extract three times with 50 ml of Et2O. Dry the organic fractions on Na2SO4. Purify by chromatography (AcOEt). Recrystallize in EtOH. One obtains 122 mg of the abovenamed product in the form of colorless crystals.

reactant | 5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one | 0.74 mmol, 200 mg | ClC1=NCC(N(C2=C1C=C(C(=C2)OC)OC)C)=O | C12H13ClN2O3
reactant | benzene boronic acid | 0.89 mmol, 109 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 0.86 mmol, 182 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | H2O | 80 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-chloro-7,8-dimethoxy-1-n-propyl-1,3-dihydro-1,4-benzodiazepin-2-one | 122 mg, Yield: 53% | ClC1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CCC)=O | C14H17ClN2O3
